US09085555B2
[3-Chloro-2-fluoro-5-(4-methyl-piperazine-1-carbonyl)-benzyl]-carbamic acid tert-butyl ester
was prepared according to Scheme C3 (step A) from 3-(tert-butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid (150 mg, 0.49 mmol), HATU (282 mg, 0.74 mmol), 4-methylpiperazine (59 mg, 0.59 mmol) and DIPEA (0.26 mL, 1.5 mmol) in DMF (2 mL). MS (LC-MS): 386.0 [M]+; tR (HPLC conditions c): 3.77 min.

reactant | 3-(tert-butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid | 0.49 mmol, 150 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=C(C1F)Cl | C13H15ClFNO4
reactant | HATU | 0.74 mmol, 282 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylpiperazine | 0.59 mmol, 59 mg | CN1CCNCC1 | C5H12N2
reactant | DIPEA | 1.5 mmol, 0.26 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [3-Chloro-2-fluoro-5-(4-methyl-piperazine-1-carbonyl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C(=O)N1CCN(CC1)C)Cl)F)=O | C18H25ClFN3O3
